data/mechanism_extracts/EurJOC/10.1002_ejoc.202200857.json
{"doi": "10.1002_ejoc.202200857", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical 1,2-dibromination of terpenes and alkenes using NaBr as bromide source in an undivided cell with glassy carbon electrodes", "mechanism_family": ["mediator_anodic", "paired_electrolysis", "cation_initiated"], "electrochemical_role": "Anodic 2-electron oxidation of bromide to Br2 (in equilibrium with tribromide Br3-); cathodic reduction of water to H2 (and hypobromite formation in undivided cell)", "key_intermediates": [{"name": "bromide anion", "smiles": "[Br-]", "role": "reactive"}, {"name": "tribromide", "smiles": "[Br-][Br][Br-]", "role": "resting_state"}, {"name": "molecular bromine", "smiles": "BrBr", "role": "reactive"}, {"name": "bromonium ion (cyclic, from alkene + Br+)", "smiles": null, "role": "transient"}, {"name": "hypobromite", "smiles": "[O-]Br", "role": "transient"}], "electron_flow": "At the anode, 2 Br- is oxidized (2 e-) to Br2, which equilibrates with Br3-; Br2 reacts with the alkene to form a bromonium ion that is opened by Br- to give the 1,2-dibromide. The cathode reduces 2 H2O (2 e-) to H2 and hydroxide, balancing charge.", "rate_determining_step": "Anodic generation of Br2 from bromide (slow, controlled in-situ release accounts for high selectivity)", "probe_reagents": [{"name": "cyclic voltammetry of NaBr", "smiles": null, "purpose": "redox_probe", "observation": "Two oxidation events observed: Br- to Br2/Br3- equilibrium, then Br3- to Br2"}, {"name": "pH monitoring (divided vs undivided cell)", "smiles": null, "purpose": "other", "observation": "Cathodic chamber pH rises from 6 to 14 in divided cell (OH-/H2 evolution); undivided cell pH remains constant, consistent with hypobromite formation"}, {"name": "X-ray crystallography of 2b", "smiles": null, "purpose": "intermediate_trap", "observation": "Confirmed (1R,2R,4S,8S)-tetrabromide diastereomer, supporting stereospecific anti-addition via bromonium intermediates"}, {"name": "Br2 control (conventional)", "smiles": "BrBr", "purpose": "other", "observation": "Br2 gives 22% 2a and 13% 2b (poor selectivity vs 54% / 0% for electrochemical)"}, {"name": "DMSO/HBr control", "smiles": null, "purpose": "other", "observation": "Gave 39% 2a and 10% 2b; lower selectivity than electrochemical method"}], "evidence_types_used": ["cyclic_voltammetry", "isolation_of_intermediate", "other"], "evidence_strength": "medium", "notes": "Selectivity rationalized by slow, controlled in-situ generation of Br2 at the anode versus bulk Br2 addition. Electron-withdrawing groups on alkene reduce reactivity at that position, directing bromination to more nucleophilic alkenes in polyenes (e.g. terminal alkene of carvone/perillaldehyde). Cathodic lability of C-Br bonds required a divided PTFE cell for tetrabromination of limonene to 2b. Hypobromite is invoked as a side species in undivided cells based on constant pH."}
